US03943148
2,3,5,6,11,11b-Hexahydro-1H-indolizino[8,7-b]-indole (8.49 g.) is stirred for 1 hour at 25°C. in dimethylformamide (200 ml.) containing sodium hydride (2.11 g. of a 50% mineral oil dispersion). Methyl iodide (6.25 g.) in dimethylformamide (25 ml.) is added and the mixture is stirred at 25°C. for 16 hours. The dimethylformamide is distilled off, and the residue is dissolved in chloroform and washed with aqueous potassium bicarbonate and water, and dried. The product is chromatographed on neutral alumina to give 2,3,5,6,11,11b-hexahydro-11-methyl-1H-indolizino[8,7-b]indole as a clear oil (5.88 g.).

reactant | 2,3,5,6,11,11b-Hexahydro-1H-indolizino[8,7-b]-indole | 8.49 g | C1CCN2CCC3=C(NC4=CC=CC=C34)C12 | C14H16N2
reactant | sodium hydride | [H-].[Na+]
reactant | Methyl iodide | 6.25 g | CI | CH3I
solvent | dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
product | 2,3,5,6,11,11b-hexahydro-11-methyl-1H-indolizino[8,7-b]indole | CN1C2=C(C3=CC=CC=C13)CCN1CCCC12 | C15H18N2
